US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-o-tolylpiperidine
A mixture of 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine (35 mg, 0.15 mmol), 3-(2-methylphenyl)piperidine.HCl (35 mg, 0.16 mmol) and triethylamine (38 mg, 0.38 mmol) in acetonitrile (2 mL) was heated in a microwave reactor at 140-150° C. for 12.5 h. The mixture was absorbed on silica and purified by flash chromatography using a gradient of heptane and EtOAc as eluent to give 29 mg of the title compound.

reactant | 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine | 0.15 mmol, 35 mg | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | 3-(2-methylphenyl)piperidine | CC1=C(C=CC=C1)C1CNCCC1 | C12H17N
reactant | HCl | 0.16 mmol, 35 mg | Cl | ClH
reactant | triethylamine | 0.38 mmol, 38 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-o-tolylpiperidine | 29 mg | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)C2=C(C=CC=C2)C | C21H25NO2
